US05244895
13.39 g of N-t-butoxycarbonyltyrosine methyl ester was dissolved in 65 ml of tetrahydrofuran and 65 ml of dimethylformamide. 1.9 g of 60% sodium hydride was added to the solution under stirring while ice-cooled. After the ice bath was removed, the mixture was stirred at room temperature for 30 minutes and then 5.4 g of methoxyethoxymethyl chloride was added while ice-cooled again and the temperature of the mixture was stirred for 15 hours while the temperature was restored to room temperature gradually. The reaction liquor was poured into ice water and saturated by sodium chloride and extracted with each 800 ml of chloroform twice. The extract was dried on magnesium sulfate and the solvent was distilled off in vacuo and the resultant residue was fed to a silica gel column and eluted by hexane-ethyl acetate (4:1) to give 13.85 g of the colorless amorphous object. It was dissolved in 90 ml of ethanol and 60 ml of tetrahydrofuran. 3.11 g of lithium chloride and 2.77 g of sodium borohydride were added under stirring while ice-cooled and then the ice bath was removed and the mixture was stirred at room temperature for 16 hours and then saturated saline water was added and the nature of the solution was made alkaline with sodium bicarbonate and then the solution was extracted with each 800 ml of chloroform twice. The extract was dried on magnesium sulfate and the solvent was distilled off in vacuo to give 11.73 g of N-t-butoxycarbonyl-o-(2-methoxyethoxymethyl)tyrosinol. It was dissolved in 120 ml of carbon tetrachloride. 10 g of triphenylphosphine was added to the solution and the solution was refluxed by heating for 3 hours and then heated at 80° C. for 17 hours. The solvent was distilled off in vacuo and the residue was fed to a silica gel column and eluted by chloroform-methanol (100:1) and then by hexane-ethyl acetate (4:1) to give the objective chloro compound. 1.56 g of the chloro compound was dissolved in 25 ml of dimethylformamide. 1.08 g of 4-(3,4-dichlorobenzyloxy) piperidine, 0.67 g of potassium carbide and 0.67 g of sodium iodide were added to the solution and the mixture was stirred at 100° C. for 2 hours and saturated saline water was added to it and then the mixture was extracted with each 150 ml of chloroform twice. The extract was dried on magnesium sulfate and the solvent was distilled off in vacuo and the residue was fed to a silica gel column and eluted by chloroform-methanol (100:1) to give 1.53 g of the colorless amorphous object. It was dissolved in 5 ml of methyl acetate. 15 ml of 3N hydrochloric acid ethyl acetate solution was added to the solution at room temperature under stirring and then the mixture was stirred for 1 hour and the solvent was distilled off in vacuo. The resultant residue was dissolved in water and the nature of the solution was made alkaline with sodium bicarbonate and the solution was saturated by sodium chloride and washed with small amount of methanol and extracted with each 100 ml of chloroform twice and dried on magnesium sulfate and the solvent was distilled off in vacuo to give 819 mg of N-[2-amino-3(p-hydroxyphenyl)]propyl-4-(3,4-dichlorobenzyloxy)piperidine. The whole amount of it was dissolved in 20 ml of tetrahydrofuran. 1.16 g of 5-isoquinoline sulfonyl chloride monohydrochloride and then 904 ml of triethylamine were added to the solution successively under stirring while ice-cooled and the mixture was stirred for 18 hours and then the nature of the solution was made alkaline with sodium bicarbonate and the solution was extracted with each 100 ml of chloroform twice. The extract was dried on magnesium sulfate and concentrated in vacuo and the resultant residue was fed to a silica gel column and eluted by chloroform-methanol (30:1) to give 1.13 g of colorless amorphous product. 700 mg of it was dissolved in 2.5 ml of methanol and 2.5 ml of tetrahydrofuran. 8 ml of 1N caustic soda solution was added to the solution and the mixture was refluxed by heating for 2 hours. After cooled, the reaction liquor was diluted with water and the nature of the solution was once made acid with citric acid and then made alkaline with sodium bicarbonate and the solution was extracted with each 100 ml of chloroform twice and the extract was dried on magnesium sulfate and concentrated in vacuo and the resultant residue was fed to a silica gel column and eluted by chloroform-methanol (20:1) to give 418 mg of the objective product.

reactant | N-t-butoxycarbonyltyrosine methyl ester | 13.39 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C15H21NO5
reactant | sodium hydride | 1.9 g | [H-].[Na+]
reactant | lithium chloride | 3.11 g | [Cl-].[Li+]
reactant | sodium borohydride | 2.77 g | [BH4-].[Na+]
reactant | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | ethanol | 90 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | N-t-butoxycarbonyl-o-(2-methoxyethoxymethyl)tyrosinol | 11.73 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=C(C=C(C=C1)O)COCCOC)CO | C18H29NO6
